US06982268B2
To a solution of 3,5-dichloro-pyrazine-2-carbaldehyde (150 mg, 0.85 mmol) in methanol (5 mL) is added sodium methoxide (25% w/w in MeOH, 458 mg, 2.1 mmol). After the mixture is stirred at room temperature over night, the reaction is quenched with saturated NH4Cl (1 mL) and solvent removed in vacuo until dryness. DCM (20 mL) is added, and the solution is dried and solvent removed to give 140 mg of 3,5-dimethoxy-pyrazine-2-carbaldehyde as an oil.

reactant | 3,5-dichloro-pyrazine-2-carbaldehyde | 0.85 mmol, 150 mg | ClC=1C(=NC=C(N1)Cl)C=O | C5H2Cl2N2O
reactant | sodium methoxide | 2.1 mmol, 458 mg | C[O-].[Na+]
reactant | methanol | 5 mL | CO | CH4O
product | 3,5-dimethoxy-pyrazine-2-carbaldehyde | 140 mg | COC=1C(=NC=C(N1)OC)C=O | C7H8N2O3
